US08076516B2
Deprotection of N-(3-(3-(cycloheptylethynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide followed by flash chromatography (5% (7N NH3/MeOH)/dichloromethane) gave 3-amino-1-(3-(2-cycloheptylethynyl)phenyl)propan-1-ol as a yellow oil. Yield (0.173 g, 46%): 1H NMR (400 MHz, CDCl3) δ 7.40 (s, 1H), 7.18-7.30 (m, 3H), 4.91 (d, J=6.8 Hz, 1H), 3.00 (br s, 5H), 2.74-2.82 (m, 1H), 1.80-1.94 (m, 3H), 1.68-1.80 (m, 5H), 1.44-1.64 (m, 6H).

reactant | N-(3-(3-(cycloheptylethynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | C1(CCCCCC1)C#CC=1C=C(C=CC1)C(CCNC(C(F)(F)F)=O)O | C20H24F3NO2
reactant | NH3 MeOH | 7N | N.CO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-amino-1-(3-(2-cycloheptylethynyl)phenyl)propan-1-ol | NCCC(O)C1=CC(=CC=C1)C#CC1CCCCCC1 | C18H25NO
